Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
codeine / clindamycin
 
Attending: ___.
 
Chief Complaint:
facial pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female who presents as a transfer
after sustaining significant trauma from an assault followed by
___. 

On ___, patient was assaulted by her partner, her punched,
kicked, and beat her with a baseball bat. She subsequately
attempted to manage her pain with fentanyl, however overdosed,
and was given narcan by her partner. She was taken to ___ for further evaluation. There, imaging
revealed a nasal bone fracture, however, CT neck and torso
unremarkable. Further evaluation was halted, as patient left AMA
in order to " run over her partner". 

After leaving ___, she was involved in a low speed
collision with a rock, with questionable additional assault from
her partner. She was taken to ___, where 
additional CT head was preformed, demonstrated significant
facial/periorbital edema and  soft tissue hematoma over the left
calvarium, with active bleeding, as well as the previously noted
nasal bone fracture. Patient was transferred to ___ for 
concern
for ocular entrapment and basal skull fracture. 

 
Past Medical History:
IVDA depression anxiety Hep C . 
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Physical Exam:    ___:

Gen: [x] NAD, [] AAOx3, facial edema and periorbital ecchymosis,
Subconjunctival hemorrhages, EOMI.
CV: [x] RRR, [] murmur
Resp: [x] breaths unlabored, [] CTAB, [] wheezing, [] rales
Abdomen: [x] soft, [] distended, [] tender, [] rebound/guarding
Wound: [] incisions clean, dry, intact
Ext: [x] warm, [] tender, [] edema

 
Pertinent Results:
___ 04:56PM BLOOD WBC-7.3 RBC-3.15* Hgb-10.0* Hct-29.7* 
MCV-94 MCH-31.7 MCHC-33.7 RDW-12.2 RDWSD-41.8 Plt ___
___ 01:20AM BLOOD WBC-8.0 RBC-3.53* Hgb-11.2 Hct-33.5* 
MCV-95 MCH-31.7 MCHC-33.4 RDW-12.4 RDWSD-43.2 Plt ___
___ 01:20AM BLOOD Neuts-61.8 ___ Monos-11.2 
Eos-0.4* Baso-0.5 Im ___ AbsNeut-4.97 AbsLymp-2.06 
AbsMono-0.90* AbsEos-0.03* AbsBaso-0.04
___ 04:56PM BLOOD Plt ___
___ 04:56PM BLOOD ___ PTT-26.5 ___
___ 01:20AM BLOOD ___ PTT-26.7 ___
___ 04:56PM BLOOD Calcium-8.6 Phos-3.5 Mg-2.0
___ 01:43AM BLOOD Glucose-94 Lactate-1.5 Creat-0.7 Na-139 
K-3.5 Cl-109* calHCO3-21

___:  CXR:

. No acute intrathoracic process. 
2. The fracture of the left lateral ninth rib, seen on 
subsequent CT chest, is not visualized on this radiograph and 
likely just outside the field of view. 

___:  CT sinus:

1. Mildly displaced nasal bone fracture and mildly angulated 
nasal septal 
fracture.  No additional fracture is identified. 
2. Left pre-septal soft tissue swelling without orbital hematoma 
or disruption of the bony orbit. 
3. Left scalp hematoma is partially imaged.

___: 

CT chest with contrast:

1. Mildly displaced fracture of the left ninth rib. 
2. Questionable nondisplaced fracture of the right T11 
transverse process.  Correlate with physical exam. 
3. Otherwise, no evidence of traumatic injury within the chest, 
abdomen, or pelvis.  No evidence of solid organ injury. 
4. The bladder is extremely distended, correlate with ability to 
urinate to exclude urinary retention. 

___:  CT head:

1. No evidence of calvarial fracture or intracranial hemorrhage. 

2. Mildly displaced nasal bone fracture and mildly angulated 
nasal septal 
fracture. 
3. Soft tissue stranding and scalp hematoma overlying the left 
lateral 
convexity and extending to the vertex, measuring at least 9.9 x 
1.6 cm. 
4. There is hypodensity in the bilateral globus pallidus which 
is 
age-indeterminate and could reflect toxic/metabolic injury. 
  

 
Brief Hospital Course:
The patient was transferred from an OSH after an assualt and 
MVC.  She was found to have mildly displaced nasal bone 
fracture, nasal septal fracture, scalp hematoma 9.9cm, minimally 
displace 9th rib fracture, and T11 non-displaced transverse 
process fracture on Pan CT scanning. Ophthalmology and plastic 
surgery were consulted and found that she had no immediate acute 
needs. Plastics surgery had recommended sinus precautions.   
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with tylenol, ibuprofen, and 
oxycodone.  
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. 
GI/GU/FEN: The patient started on CLD and advanced to regular 
diet, which was well tolerated. Patient's intake and output were 
closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. She is to follow up with an 
ophthalmology outpatient and plastic surgery outpatient. 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild  
3.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
4.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
T11 non displaced transverse process fracture  
minimally displace 9th rib fracture  
scalp hematoma 9.9cm  
mildly displaced nasal bone fx and nasal septal fx  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ year old female admitted to the hospital with nasal bone 
fracture, rib, and spine fracture related to domestic violence 
dispute.  Because of your injuries, you were evaluated by the 
Spine service.  You were also seen by Social services and Center 
for community violence.   Arrangements for discharge were 
discussed with the ___ Community violence and you are 
being discharged with the following instructions,  you were 
reported to have a nasal bone fracture and sinus precautions 
have been recommended.  You re being discharged with the 
following instructions: 

 Because of the close relationship between the upper back teeth 
and the sinus, a communication between the sinus and the mouth 
sometimes results from surgery. This condition has occurred in 
your case, which often heals slowly and with difficulty. Certain 
precautions will assist healing and we ask that you faithfully 
follow these instructions:

1. Take the prescribed medications as directed.

2. Do not forcefully spit for several days.

3. Do not smoke for several days.

4. Do not use straws for several days.

5. Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel “stuffy” or there may be some nasal 
drainage.

6. Try not to sneeze; it will cause undesired sinus pressure. If 
you must sneeze, keep your mouth open.

7. Eat only soft foods for several days, always trying to chew 
on the opposite side of your mouth.

8. Do not rinse vigorously for several days. GENTLE salt water 
swishes may be used. Slight bleeding from the nose is not 
uncommon for several days after the surgery. Please keep our 
office advised of any changes in your condition, especially if 
drainage or pain increases. It is important that you keep all 
future appointments until this condition has resolved.

Additional instructions include: 

 Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

 

     
 
Followup Instructions:
___